US04150139
To 2.3 g of 8-chloro-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine in 20 ml of dioxane was added 10 ml of 2N-potassium hydroxide and the mixture was heated on a water bath at 95° C. for 30 minutes. The solvent was evaporated off and water was added to the residue. The mixture was made acidic with 2N-HCl and the resultant crystalline precipitate was recovered by filtration and dried. By the above procedure was obtained 8-chloro-2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one as crystals. Recrystallization from chloroform-methanol yielded colorless platelets, m.p. 281°-283° C.

reactant | 8-chloro-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine | 2.3 g | ClC=1C=CC2=C(C=CN3C(C2)=NN=C3S(=O)(=O)C)C1 | C12H10ClN3O2S
reactant | potassium hydroxide | [OH-].[K+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 8-chloro-2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one | ClC=1C=CC2=C(C=CN3C(C2)=NNC3=O)C1 | C11H8ClN3O
